US06982348B2
4) (4RS,5RS)-5-(5-chloro-2-thienyl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one
To a solution of (2RS,3RS)-3-(5-chloro-2-thienyl)-3-hydroxy-2-[3-(1,1,2,2 tetrafluoroethoxy)benzyl]propionic acid (8.996 g, 21.79 mmol) in tetrahydrofuran (80 ml) were added triethylamine (3.65 ml, 26.2 mmol) and diphenylphosphoryl azide (6.60 g, 24.0 mmol), and the mixture was heated under reflux overnight. The solvent of the reaction solution was evaporated under reduced pressure and the obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1-1/1) to give the objective substance.

reactant | (2RS,3RS)-3-(5-chloro-2-thienyl)-3-hydroxy-2-[3-(1,1,2,2 tetrafluoroethoxy)benzyl]propionic acid | 21.79 mmol, 8.996 g | ClC1=CC=C(S1)C(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C16H13ClF4O4S
reactant | triethylamine | 26.2 mmol, 3.65 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 24.0 mmol, 6.60 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (4RS,5RS)-5-(5-chloro-2-thienyl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | ClC1=CC=C(S1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C16H12ClF4NO3S
